US09328110B2
The product from the previous step, [3-(2-methyl-[1,3]dioxolan-2-yl)propyl](3-nitro-quinolin-4-yl)amine (29.5 g, 93.0 mmol), was stirred with sodium dithionite (67.0 g, approximately 85% pure), potassium carbonate (51.4 g, 372 mmol), and ethyl viologen dibromide (0.37 g, 1 mmol) in a mixture of dichloromethane and water (375 mL each) for 15 hours. The layers were then separated, and the organic phase was washed successively with a saturated aqueous sodium bicarbonate solution and water (250 mL each), dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide N4-[3-(2-methyl-[1,3]dioxolan-2-yl)-propyl]quinoline-3,4-diamine (26.0 g) as a dark solid that was used directly in the next step without further purification.

reactant | [3-(2-methyl-[1,3]dioxolan-2-yl)propyl](3-nitro-quinolin-4-yl)amine | 93.0 mmol, 29.5 g | CC1(OCCO1)CCCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C16H19N3O4
reactant | sodium dithionite | 67.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium carbonate | 372 mmol, 51.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 375 mL | O | H2O
catalyst | ethyl viologen dibromide | 1 mmol, 0.37 g | CC[N+]1=CC=C(C=C1)C2=CC=[N+](C=C2)CC.[Br-].[Br-]
product | N4-[3-(2-methyl-[1,3]dioxolan-2-yl)-propyl]quinoline-3,4-diamine | 26.0 g | CC1(OCCO1)CCCNC1=C(C=NC2=CC=CC=C12)N | C16H21N3O2
